US08471005B2
{7-[3-(Morpholine-4-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl}-(4-pyridin-3-yl-phenyl)-amine was prepared from 7-[3-(morpholine-4-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 4-pyridin-3-yl-phenylamine in an analogous manner to Example 1052a. Product isolated as a yellow foam (16 mg, 10%). LCMS (m/e) 513 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.88 (s, 1H), 8.79 (s, 1H), 8.61-8.52 (m, 1H), 8.49 (s, 1H), 8.41 (d, 1H, J=7.6 Hz), 7.91 (d, 1H, J=7.8 Hz), 7.80-7.60 (m, 6H), 7.40-7.31 (m, 1H), 7.08 (d, 1H, J=4.6 Hz), 7.02 (s, 1H), 6.90 (d, 1H, J=4.5 Hz), 3.75-3.66 (m, 4H), 3.09-3.00 (m, 4H).

reactant | 7-[3-(morpholine-4-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C16H16N4O4S
reactant | 4-pyridin-3-yl-phenylamine | N1=CC(=CC=C1)C1=CC=C(C=C1)N | C11H10N2
product | {7-[3-(Morpholine-4-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl}-(4-pyridin-3-yl-phenyl)-amine | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C=2C=NC=CC2 | C27H24N6O3S
